US04442115
1-Benzyl-2'-hydroxy-3'-methoxycarbonyl-5'-methyl-1H-tetrazole-5-carboxanilide (3.0 g) was added, with stirring, to a suspension of anhydrous aluminium chloride (3.6 g) in dichloromethane (150 ml). After stirring and heating at reflux for 150 minutes, the mixture was poured into a mixture of ice (100 g), aqueous hydrochloric acid (2 N; 100 ml) and ethyl acetate (100 ml), and stirring was continued for a further period of 2 hours. The remaining insoluble material was filtered off and the organic layer was washed with water (3×20 ml) and dried over anhydrous sodium sulphate. Evaporation of the solvent gave a yellow solid, which was then digested in aqueous potassium bicarbonate solution (5% w/v; 100 ml), and the resulting solution was treated with charcoal and filtered. Acidification of the filtrate gave a solid, which was recrystallised from nitromethane to give 2'-hydroxy-3'-methoxycarbonyl-5'-methyltetrazole-5-carboxanilide (1.2 g), m.p. 238°-240° C.

reactant | 1-Benzyl-2'-hydroxy-3'-methoxycarbonyl-5'-methyl-1H-tetrazole-5-carboxanilide | 3.0 g | C(C1=CC=CC=C1)N1N=NN=C1C(=O)NC1=C(C(=CC(=C1)C)C(=O)OC)O | C18H17N5O4
reactant | aluminium chloride | 3.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
reactant | charcoal | C | CH4
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | potassium bicarbonate | 100 ml | C([O-])(O)=O.[K+]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2'-hydroxy-3'-methoxycarbonyl-5'-methyltetrazole-5-carboxanilide | 1.2 g | OC1=C(NC(=O)C2=NN=NN2)C=C(C=C1C(=O)OC)C | C11H11N5O4
